US04954518
25 g of 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetaldehyde was dissolved in 260 ml of benzene and 130 ml of N,N-dimethylformamide. Thereto was added 26 ml of N,N-dimethylformamide dimethylacetal. The mixture was stirred for 8 hours at room temperature. The reaction mixture was introduced into a mixture consisting of 200 ml of ethyl acetate and 200 ml of water. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting oily matter was purified by a column chromatography (eluant: a 20 : 1 mixture of toluene and ethyl acetate) to obtain 13 g (yield: 50.4%) of 3-formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetaldehyde | 25 g | OC1=C(C(=O)CC=O)C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C16H15NO6S
reactant | N,N-dimethylformamide dimethylacetal | 26 ml | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 200 ml | O | H2O
solvent | benzene | 260 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | 3-formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 13 g, yield: 50.4% | C(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO6S
